US07408084B2
To a tetrahydrofuran solution (20 mL) of 9.917 g (67.0 mmol) of butyrophenone, a hexane solution (10 mL) of 11.78 g (1.1 equivalents) of bromine was gradually added at 5° C. The temperature was elevated to 15° C., and the solution was stirred for 1 hour. To the solution, 20 mL of water and 40 mL of ethyl acetate were added to conduct extraction. The organic layer was washed with 30 mL of a saturated sodium hydrogen carbonate solution three times, dried over anhydrous magnesium sulfate, and subjected to distillation under a reduced pressure to remove the solvents. 1-Phenyl-2-bromo-1-butanone was obtained as a light peach-colored oily substance (23.94 g, crude yield: 92%).

reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | butyrophenone | 67.0 mmol, 9.917 g | C(CCC)(=O)C1=CC=CC=C1 | C10H12O
reactant | hexane | 10 mL | CCCCCC | C6H14
reactant | bromine | 11.78 g, 1.1 equivalents | BrBr | Br2
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
product | 1-Phenyl-2-bromo-1-butanone | C1(=CC=CC=C1)C(C(CC)Br)=O | C10H11BrO
